US07531532B2
N-(2-Chloro-4-{2-[(azetidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)-N′-(4-fluorophenyl)malonamide
Azetidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide (100 mg) was dissolved in N,N-dimethylformamide (2 ml) under a nitrogen atmosphere, and then N-(4-fluorophenyl)malonic acid (186 mg), triethylamine (0.131 ml) and (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate (417 mg) were added thereto at 50° C., followed by stirring at the same temperature for 1 hr. The reaction mixture was cooled down to room temperature, and partitioned between ethyl acetate and a 1 N aqueous solution of sodium hydroxide. The organic layer was washed with a saturated aqueous solution of sodium hydrogencarbonate, water and brine in this order, and dried over anhydrous sodium sulfate. The solvent was evaporated to give a residue, to which diethyl ether was added to suspend. The solid was filtered off and dried under aeration to provide the titled compound (128 mg, 81.7%) as pale brown powder.

reactant | Azetidine-1-carboxylic acid [4-(4-amino-3-chlorophenoxy)pyridin-2-yl]amide | 100 mg | NC1=C(C=C(OC2=CC(=NC=C2)NC(=O)N2CCC2)C=C1)Cl | C15H15ClN4O2
reactant | triethylamine | 0.131 ml | C(C)N(CC)CC | C6H15N
reactant | (1H-1,2,3-benzotriazol-1-yloxy)[tri(dimethylamino)]phosphonium hexafluorophosphate | 417 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | diethyl ether | C(C)OCC | C4H10O
reactant | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | N-(2-Chloro-4-{2-[(azetidine-1-carbonyl)amino]pyridin-4-yloxy}phenyl)-N′-(4-fluorophenyl)malonamide | 128 mg, 81.7% | ClC1=C(C=CC(=C1)OC1=CC(=NC=C1)NC(=O)N1CCC1)NC(CC(=O)NC1=CC=C(C=C1)F)=O | C24H21ClFN5O4
